US09108977B2
To a solution of 10.81 g of ethyl 3-{7-[2-(methoxymethoxy)ethyl]-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl}propanoate in 100 ml of EtOH and 100 ml of THF was added 100 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring at room temperature for 1 hour. The reaction mixture was neutralized by the addition of hydrochloric acid and then concentrated under reduced pressure to one third of the liquid amount, and the residue was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. To a solution of the resulting residue in 300 ml of t-butanol were added 9.0 ml of triethylamine and 7.0 ml of DPPA, followed by heating and refluxing for 24 hours. The reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc), and then the resulting solid was washed with HEX to obtain 8.006 g of t-butyl (2-{7-[2-(methoxymethoxy)ethyl]-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl}ethyl)carbamate as a milky white solid.

reactant | ethyl 3-{7-[2-(methoxymethoxy)ethyl]-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl}propanoate | 10.81 g | COCOCCC1=C(C=C2CCC(NC2=C1C)=O)CCC(=O)OCC | C19H27NO5
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | t-butyl (2-{7-[2-(methoxymethoxy)ethyl]-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl}ethyl)carbamate | 8.006 g | COCOCCC1=C(C=C2CCC(NC2=C1C)=O)CCNC(OC(C)(C)C)=O | C21H32N2O5
